US08048899B2
To a solution of 5 g (48.7 mmol) of cyclopentyl thiol in ethanol (50 mL) are added 2.7 g (48.75 mmol) of KOH pellets, followed by 9.5 g (48.7 mmol) of ethyl α-bromoisobutyrate. The reaction is heated to reflux for 2 h and then cooled to room temperature. The solid (KBr) is separated by filtration and rinsed with ethanol (20 mL). The filtrate is concentrated under reduced pressure and the residue dissolved in DCM (50 mL). The organic layer is washed with saturated aqueous NaHCO3 solution (50 mL). The aqueous washes are back-extracted with DCM (10 mL). The combined organics are washed with brine, dried over Na2SO4. Filtration and concentration under reduced pressure affords 8.1 g of 2-cyclopentylsulfanyl-2-methyl-propionic acid ethyl ester. Yield: 77%, ES-MS: m/z 217 [M+H]

reactant | cyclopentyl thiol | 48.7 mmol, 5 g | C1(CCCC1)S | C5H10S
reactant | KOH | 48.75 mmol, 2.7 g | [OH-].[K+]
reactant | ethyl α-bromoisobutyrate | 48.7 mmol, 9.5 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-cyclopentylsulfanyl-2-methyl-propionic acid ethyl ester | 8.1 g, Yield: 77% | C(C)OC(C(C)(C)SC1CCCC1)=O | C11H20O2S
